US07485634B2
Preparation of 8-dibenzylamino-3-(4-fluorobenzoyl)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester and variations
In a manner similar to Example 2A, but using ethyl 8-(benzyl(methyl)amino)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 3,4-difluorobenzoyl chloride, the following compound was prepared:

reactant | ethyl 8-(benzyl(methyl)amino)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C(C1=CC=CC=C1)N(C=1C=CC=2C3=C(NC2C1)C(=CNCC3(C)C)C(=O)OCC)C | C25H29N3O2
reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
product | 8-dibenzylamino-3-(4-fluorobenzoyl)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=C(C=CC21)N(CC2=CC=CC=C2)CC2=CC=CC=C2)(C)C)C(C2=CC=C(C=C2)F)=O | C38H36FN3O3
